US08871753B2
4-Chloro-N-[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]benzamide hydrochloride
The desired compound was prepared according to the procedure of Example B26, using 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride and 4-chlorobenzoyl chloride as the starting materials in 66% yield. LCMS for C25H20Cl2N5O (M+H)+: m/z=476.2.

reactant | 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride | Cl.Cl.ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)N)C3
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 4-Chloro-N-[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]benzamide hydrochloride | 66% yield | Cl.ClC1=CC=C(C(=O)NC=2C=CC=3NC4=C(C=NC(NC=5C=CC=C(CCC2C3)C5)=N4)Cl)C=C1 | InChI=1S/C25H19Cl2N5O.ClH/c26-18-8-6-16(7-9-18)24(33)31-22-11-10-20-13-17(22)5-4-15-2-1-3-19(12-15)30-25-28-14-21(27)23(29-20)32-25;/h1-3,6-14H,4-5H2,(H,31,33)(H2,28,29,30,32);1H
